US06716851B2
4-(3-Methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (100 mg, 0.486 mmol) and m-anisidine (55 μl, 0.486 mmol) similar to Example 13 as an tan oil (139 mg, 98%). 1HNMR (CDCl3): 8.78-8.75 (m, 1H), 8.45 (dt, J=1.2, 8.1 Hz, 1H), 7.78 (td, J=1.9, 7.8 Hz, 1H), 7.73 (s, 1H), 7.34-7.30 (m, 1H), 7.23 (t, J=8.1 Hz, 1H), 7.03 (t, J=2.1 Hz, 1H), 6.92 (dd, J=2.0, 7.7 Hz, 1H), 6.67 (dd, J=2.4, 8.1 Hz, 1H), 6.61 (s, 1H), 3.77 (s, 3H), 2.44 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.486 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | m-anisidine | 0.486 mmol, 55 μl | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | COC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C17H16N4O
